US07320992B2
2-Bromo-6-bromomethyl-benzoic acid methyl ester (214 mg) and 4-t-butylaniline (93 mg) were put into a microwave reaction vial along with 2 mL of iPrOH. The reaction was subjected to 170° C., 5 min of microwave. The solvent was evaporated and the residue was purified by silica gel chromatography (25 g, 10-20% EtOAc/hexanes) to afford 7-bromo-2-(4-t-butyl-phenyl)-2,3-dihydro-isoindol-1-one as a white powder.

reactant | 2-Bromo-6-bromomethyl-benzoic acid methyl ester | 214 mg | COC(C1=C(C=CC=C1CBr)Br)=O | C9H8Br2O2
reactant | 4-t-butylaniline | 93 mg | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
solvent | iPrOH | 2 mL | CC(C)O | C3H8O
product | 7-bromo-2-(4-t-butyl-phenyl)-2,3-dihydro-isoindol-1-one | BrC=1C=CC=C2CN(C(C12)=O)C1=CC=C(C=C1)C(C)(C)C | C18H18BrNO
